US05055223
A mixture of 10.6 g of dicyclohexylcarbodiimide and 40 ml of methylene chloride is added to a mixture of 9.1 g of trans-4-pentylcyclohexylcarboxylic acid, 11.2 g of p-hydroxyphenyl-sulfur pentafluoride and 100 ml of methylene chloride, and the combined mixture is heated at the boil for 6 hours. Working up in the customary manner gives 4-(trans-4-pentylcyclohexylcarbonyloxy)-phenyl-sulfur pentafluoride.

reactant | dicyclohexylcarbodiimide | 10.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trans-4-pentylcyclohexylcarboxylic acid | 9.1 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
reactant | p-hydroxyphenyl-sulfur pentafluoride | 11.2 g | OC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H5F5OS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-(trans-4-pentylcyclohexylcarbonyloxy)-phenyl-sulfur pentafluoride | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)S(F)(F)(F)(F)F | C18H25F5O2S
